US07498354B2
To a stirred solution of ethyl 1-(3-thien-3-ylphenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate (500 mg, 1.5 mmol, prepared as described in the procedure for example 5) in THF (10 mL) was added aqueous sodium hydroxide (416 mg in 4 mL H2O, 10.4 mmol) and the mixture heated at reflux for 16 hr. After this time, the cooled mixture was acidified with 2M HCl to pH 6 and the resulting precipitate collected by filtration, and washed with water and hexane. The filtrate was concentrated to about half the volume and extracted with ethyl acetate (2×75 mL). The combined organic phases were washed with saturated aqueous sodium chloride, and dried over sodium sulfate and evaporated in vacuo to yield a brown solid. The solids were combined and purified by silica gel chromatography eluting with MeOH:CH2Cl2 10%→25%) to yield 312.7 mg (68%) 1-(3-thien-3-ylphenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylic acid. 1H NMR (400 MHz, DMSO-d6): δ=8.39 (s, 1H), 8.07 (d, 2.4 Hz, 1H), 8.04-8.02 (m, 1H), 7.72-7.69 (m, 3H), 7.69-7.57 (m, 3H), 6.66 (br s, 1H). MS (ES+): m/z 338.13 (100) [MH+].

reactant | ethyl 1-(3-thien-3-ylphenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate | S1C=C(C=C1)C=1C=C(C=CC1)N1C=NC2=C1C=C(N2)C(=O)OCC | C18H15N3O2S
reactant | sodium hydroxide | 10.4 mmol, 4 mL, 416 mg | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-thien-3-ylphenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylic acid | 312.7 mg, 68% | S1C=C(C=C1)C=1C=C(C=CC1)N1C=NC2=C1C=C(N2)C(=O)O | C16H11N3O2S
